US05120843
2,6-Dimethylphenol (1.22 g) is added to a mixture of powdered potassium hydroxide (2.24 g) in dimethylsulfoxide (20 ml). Then 3-bromopropane (2.42 g) is added at 20°-25° and stirred for 0.5 hr. The mixture is diluted with water (100 ml) and extracted with methylene chloride (3×). The organic extracts are washed with water (2×) and then with saline, dried over sodium sulfate and concentrated under reduced pressure to give 1-allyloxy-2,6-dimethylbenzene.

reactant | 2,6-Dimethylphenol | 1.22 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | potassium hydroxide | 2.24 g | [OH-].[K+]
reactant | 3-bromopropane | 2.42 g | BrCCC | C3H7Br
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 1-allyloxy-2,6-dimethylbenzene | C(C=C)OC1=C(C=CC=C1C)C | C11H14O
